US04310670
The process which comprises the steps of reacting 4-picoline below about 30° C. with at least three mole equivalents per mole of 4-picoline of an inorganic acid halide selected from phosphorus oxychloride, phosgene, thionyl chloride, sulfuryl chloride, phosphorus trichloride, phosphorus pentachloride, phosphorus tribromide, carbonyl dibromide or thiophosgene and about five to twenty volumes of dimethylformamide per volume of 4-picoline, adding the reaction mixture to cold water and adjusting the pH to about 8.0 while keeping the temperature below about 30° C., filtering off the precipitated inorganic cationic salt, treating the aqueous filtrate which contains N-[3-dimethylamino-2-(4-pyridinyl)-2-propenylidene]-N-methylmethaniminium salt with at least about 30-35% molar excess of α-cyanoacetamide and at least three mole equivalents of base still keeping the temperature below about 30° C., and then isolating either 5-cyano-[3,4'-bipyridin]-6(1H)-one as its inorganic cationic salt or, after neutralization, in its free base form.

reactant | 4-picoline | N1=CC=C(C=C1)C | C6H7N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
reactant | carbonyl dibromide | C(=O)(Br)Br | CBr2O
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-cyano-[3,4'-bipyridin]-6(1H)-one | C(#N)C1=CC(=CNC1=O)C1=CC=NC=C1 | C11H7N3O
